US06166006
In THF (350 ml) was dissolved 5-bromoanthranilic acid (40.06 g), and the mixture was cooled to 0° C. To the mixture was added dropwise a solution of 10.0M borane dimethylsulfide in THF (54.5 ml), and the mixture was stirred at room temperature for 4.5 hours. The mixture was cooled to 0° C., and to the mixture was added dropwise 3N sodium hydroxide solution. The mixture was stirred at room temperature overnight, and to the mixture was added granulated sodium hydroxide to adjust the mixture to pH 11. The aqueous layer was saturated with potassium carbonate, and the THF layer was separated. The aqueous layer was extracted with ether (100 ml×5). The organic layers were combined and dried with magnesium sulfate. The solvent was evaporated under reduced pressure to give (2-amino-5-bromophenyl)methanol (36.66 g, 100%).

reactant | 5-bromoanthranilic acid | 40.06 g | BrC1=CC=C(C(C(=O)O)=C1)N | C7H6BrNO2
reactant | borane dimethylsulfide | 10.0M | CSC.B
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | THF | 54.5 ml | C1CCOC1 | C4H8O
product | (2-amino-5-bromophenyl)methanol | 36.66 g, 100% | NC1=C(C=C(C=C1)Br)CO | C7H8BrNO
